US08378104B2
Step B: 7-bromo-4-fluoro-1,2-benzothiazole
A mixture of 3-bromo-2-(tert-butylsulfanyl)-6-fluorobenzaldehyde (1.20 g, 4.12 mmol) and hydroxylamine hydrochloride (1.432 g, 20.60 mmol) in isopropanol (60 mL, 800 mmol) and water (10 mL) was heated to 70° C. for 20 min. The organic solvent was removed in vacuo, and saturated aqueous sodium bicarbonate was added to bring the pH to 8.5. The material was extracted with DCM and water, and the organic layer was concentrated in vacuo. The residue was treated with p-toluenesulfonic acid (141.9 mg, 0.8242 mmol) in n-butanol (60 mL) and the solution was heated to 120° C. overnight. The solvent was removed in vacuo. The residue was purified by column chromatography (1 to 2% EtOAc:hexanes) to afford 382 mg (40%) of the title compound as a white solid. 1H NMR (400 MHz, CDCl3): δ 7.01 (dd, J=9.1, 8.3 Hz, 1 H), 7.60 (dd, J=8.3, 4.0 Hz, 1 H), 9.10 (s, 1 H).

reactant | 3-bromo-2-(tert-butylsulfanyl)-6-fluorobenzaldehyde | 4.12 mmol, 1.20 g | BrC=1C(=C(C=O)C(=CC1)F)SC(C)(C)C | C11H12BrFOS
reactant | hydroxylamine hydrochloride | 20.60 mmol, 1.432 g | Cl.NO
reactant | isopropanol | 800 mmol, 60 mL | C(C)(C)O | C3H8O
reactant | p-toluenesulfonic acid | 0.8242 mmol, 141.9 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | 10 mL | O | H2O
solvent | n-butanol | 60 mL | C(CCC)O | C4H10O
product | 7-bromo-4-fluoro-1,2-benzothiazole | 382 mg, 40% | BrC1=CC=C(C=2C=NSC21)F | C7H3BrFNS
